US07037924B2
Concentrated sulfuric acid (0.4 mL) was added the the mixture of [2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-carbamic acid ethyl ester (33.5 g, 121 mmol) and diphenyl ether (230 mL). The mixture was heated to 230° C. for 6 hr. After cooling, ether was added to precipitate the solid. The resulting solid was collected by filtration, washed with ether and dried to afford 6,7-dimethoxy-1-oxo-1,2-dihydro-isoquinoline-4-carbonitrile (20.7 g, 74.1%) as a brown solid which was used without further purification. LC-MS m/e calcd for C12H10N2O3 (MH+) 231. found 231.

reactant | sulfuric acid | 0.4 mL | S(O)(O)(=O)=O | H2O4S
reactant | [2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-carbamic acid ethyl ester | 121 mmol, 33.5 g | C(C)OC(NC=C(C1=CC(=C(C=C1)OC)OC)C#N)=O | C14H16N2O4
reactant | diphenyl ether | 230 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ether | CCOCC | C4H10O
product | 6,7-dimethoxy-1-oxo-1,2-dihydro-isoquinoline-4-carbonitrile | 20.7 g, 74.1% | COC=1C=C2C(=CNC(C2=CC1OC)=O)C#N | C12H10N2O3
